US04806539
2.8 g (10 mmol) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid are heated at 140° in 30 ml of dimethyl sulphoxide with 2.5 g (11 mmol) of 1-(6-hydroxy-2,2-dimethyl-1,3-dioxepan-5-yl)-piperazine and 2.25 g (20 mmol) of 1,4-diazabicyclo[2.2.2]octane for 4 hours, the reaction mixture is concentrated, the resulting oil is diluted with 20 ml of methanol and the pH is brought to 5 with 2N hydrochloric acid. The precipitate which has separated out is recrystallized from glycol monomethyl ether/methanol. 0.5 g of 1-cyclopropyl-6-fluoro-1,4-dihydro-7-[4-(6-hydroxy-2,2-dimethyl-1,3-dioxepan-5-yl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid of melting point 255°-262° (with decomposition) is obtained, and is dissolved in 10 ml of 2N hydrochloric acid, with warming, to split off the protective group. After the solution has been left to stand at room temperature for 1 hour, 0.3 g of 1-cyclopropyl-6-fluoro-1,4-dihydro-7-[4-(1,3,4-trihydroxy-2-butyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid of melting point 262°-268° (with decomposition) has precipitated.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 10 mmol, 2.8 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 1-(6-hydroxy-2,2-dimethyl-1,3-dioxepan-5-yl)-piperazine | 11 mmol, 2.5 g | OC1C(COC(OC1)(C)C)N1CCNCC1 | C11H22N2O3
reactant | 1,4-diazabicyclo[2.2.2]octane | 20 mmol, 2.25 g | N12CCN(CC1)CC2 | C6H12N2
solvent | dimethyl sulphoxide | 30 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-7-[4-(6-hydroxy-2,2-dimethyl-1,3-dioxepan-5-yl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 0.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C1COC(OCC1O)(C)C)F)=O)C(=O)O | C24H30FN3O6
